US08685969B2
5. Benzyl 3-(7-bromo-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate
A mixture of 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-bromo-9H-pyrido[3,4-b]indole-1-carboxylic acid (1.174 g, 2.214 mmol), ammonium chloride (0.474 g, 8.85 mmol), N,N-diisopropylethylamine (1.856 mL, 10.63 mmol), BOP (1.273 g, 2.88 mmol), and N-methylmorpholine (0.949 mL, 8.63 mmol) in DMF (Volume: 10 mL) was stirred at room temperature for 2 hr. To the mixture was added water (120 mL), and the resulting mixture was stirred at room temperature for 20 min. The precipitating product (1.23 g) was collected as a beige solid by suction filtration and dried over Drierite at 50° C. This product was 80% pure, but was used in the next step without further purification.

reactant | 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-bromo-9H-pyrido[3,4-b]indole-1-carboxylic acid | 2.214 mmol, 1.174 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)Br)C(=O)O)C | C27H20BrN3O4
reactant | ammonium chloride | 8.85 mmol, 0.474 g | [Cl-].[NH4+]
reactant | N,N-diisopropylethylamine | 10.63 mmol, 1.856 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | BOP | 2.88 mmol, 1.273 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methylmorpholine | 8.63 mmol, 0.949 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 120 mL | O | H2O
product | Benzyl 3-(7-bromo-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate | BrC1=CC=C2C3=C(NC2=C1)C(=NC=C3C=3C(=C(C=CC3)NC(OCC3=CC=CC=C3)=O)C)C(N)=O | C27H21BrN4O3
